data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1([CH+:22]C=C(O1)S(=O)(=O)O)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>C1=C(O[C:21](=[CH:22]1)S(=O)(=O)O)S(=O)(=O)O.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21,22
CC(C)(C)OC(=O)O[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.C=CC1=C(C=CC=C1)[NH2:10].CC(C)(C)[O-]>>CC(C)(C)OC(=O)O[C:20]([NH2+:10]C1=C(C=CC=C1)C=C)([N+]2=CC=C(C=C2)N(C)C)[O-:21].CC(C)(C)[O-] 10=20;20,21=21
[H:20][O:21]CC.CC(CC#N)[O-:10]>>[H:20][O:10]C(C)CC#N.CC[O-:21] 10=20;20,21=21
CCC(C)O[C:20](=[O:21])C1=CC=CC=C1.[OH-:10]>>CCC(C)O[C:20](C1=CC=CC=C1)([OH:10])[O-:21] 10=20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)S(=O)(=O)O.[Br:20][Br:21]>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[Br:20])S(=O)(=O)O.[Br-:21] 10,11=10,20;20,21=21
CCOC(=O)C(C)C1CC2C(CCCC2=C)C[C:20]1([NH+:21]3CCCC3)[O-:10].[OH3+].[Br-]>>CCOC(=O)C(C)C1CC2C(CCCC2=C)C[C:20]1=[O:10].C1CC[NH:21]C1.[OH3+].[Br-] 10=20;20,21=21
[H:20][OH2+:21].C(CO)C=[O:10]>>[H:20][O+:10]=CCCO.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN(CC)[C:11](=[CH:10]CSCC)[OH:12]>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])N(CC)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[O-:10].[Na+:20].CC1CC(=C)CC(CC1=O)C(=O)OC>>C[O:10][Na:20].CC1CC(=C)CC(CC1=O)C(=O)OC 10=20,
[H:20][O+:21](C(C)C)C(C)(C)Br.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(C)[O:21]C(C)(C)Br 10=20;20,21=21
CC[N:10](CC)CC.[CH3:20][I:21]>>CC[N+:10]([CH3:20])(CC)CC.[I-:21] 10=20;20,21=21
CO[C:22](=[O:23])[CH:21]=[CH2:20].O[O-:10]>>CO[C:22](=[CH:21][CH2:20][O:10]O)[O-:23] 10=20;22,23=23;20,21=21,22
CC1CC(C([CH:20](C1)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)OC(=[O:10])C)CC(C)C>>CC1CC(C2[CH:20](C1)[O+:10]=C(O2)C)CC(C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][NH3+:21].CO[P:10](OC)Cl>>[H:20][P+:10](OC)(OC)Cl.[NH3:21] 10=20;20,21=21
C#CCOC1=CC(=CC(=C1)CO[P:10](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)[Br:11])OCC#C.C(Br)(Br)Br>>C#CCOC1=CC(=CC(=C1)CO[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)OCC#C.[Br-:11].C(Br)(Br)Br 10,11=11
[H:20][OH+:21]C.CC(CCC(O)([OH:10])OC)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]C(CCC(C)C1CCC2C1(CCC3C2C(CC4C3(CCC(C4)O)C)O)C)(O)OC.C[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CC12CC[C:11](=[CH:10][C:20]1(CCCC2=O)[OH:21])[O-:12].O>>CC12CC[C:11](=[O:12])[CH:10]=[C:20]1CCCC2=O.[OH-:21].O 10,11=10,20;20,21=21;12=11
[H:20][NH3+:21].[OH2:10]>>[H:20][OH2+:10].[NH3:21] 10=20;20,21=21
[H:20][O:21]CCCC.[H:10][Na:11]>>CCCC[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][F:21].[CH2:10]=[CH:11]CC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CC1=CC=CC=C1.[F-:21] 10,11=10,20;20,21=21
C[CH:20]=[Cl+:21].[Cl-:10]>>C[CH:20]([Cl:10])[Cl:21] 10=20;20,21=21
C1CC2=[N:10]CCCN2C1.C1=CC=C(C=C1)[CH2:20][Br:21]>>C1CC2=[N+:10](CCCN2C1)[CH2:20]C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
CCO[C:20](CCC(=O)N(C)C)([O-:10])[O:21]C>>CCO[C:20](=[O:10])CCC(=O)N(C)C.C[O-:21] 10=20;20,21=21
[H:20][N:21](S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C2=CC=CC=C2.COC(=O)[C-:10](C1=CC=CC=C1)[N+]#N>>[H:20][C:10](C1=CC=CC=C1)(C(=O)OC)[N+]#N.C1=CC=C(C=C1)S(=O)(=O)[N-:21]S(=O)(=O)C2=CC=CC=C2 10=20;20,21=21
[H:20][CH2:21][CH2:22][N+:23](C)(CC)CC.[OH-:10]>>CC[N:23](C)CC.[CH2:21]=[CH2:22].[H:20][OH:10] 10=20;22,23=23;20,21=21,22
CC(=O)NC1=CC=C(C=C1)[NH2:10].[N:20]#[O+:21]>>CC(=O)NC1=CC=C(C=C1)[NH2+:10][N:20]=[O:21] 10=20;20,21=21
CN1C2CCCC1CC(=[O:10])C2.Cl[Ti:20](Cl)(Cl)Cl.C1CCNC1>>CN1C2CCCC1CC(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)C2.C1CCNC1 10=20,
[H:20][OH+:21]C(C)C(C=CC)Br.[OH2:10]>>[H:20][OH2+:10].CC=CC(C(C)[OH:21])Br 10=20;20,21=21
C[N-:10][CH:20]=[S+:21]C>>C[N:10]=[CH:20][S:21]C 10=20;20,21=21
CC1=C[N:21]=[CH:20]C=C1.[NH2-:10]>>CC1=C[N-:21][CH:20](C=C1)[NH2:10] 10=20;20,21=21
[H:20][Br:21].CC1CC([CH:10]=[C:11]1C)C2=CC=CC=C2>>[H:20][CH:10]1C(CC([C+:11]1C)C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
[CH3:20][I:21].C1=C[N:10]=CN1>>[CH3:20][N+:10]1=CNC=C1.[I-:21] 10=20;20,21=21
C[N:21](C=O)[Cl:20].C[S:10]C>>C[N-:21]C=O.C[S+:10](C)[Cl:20] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC[C:11](=[CH:10]CC1(C(=O)CCCC1=O)C)[O-:12]>>[H:20][CH:10](CC1(C(=O)CCCC1=O)C)[C:11](=[O:12])CC.CC[N:21](CC)CC 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC#CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C#CC.[OH2:21] 10=20;20,21=21
[H:20][Br:21].C1CC([CH:10]=[C:11](C(C1)C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CCCC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10,11=10,20;20,21=21
[B:20](CCCC)(CCCC)OC(=CC)C.CC=[O:10].CC[NH+](CC)CC.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-].[Cl-]>>[B-:20](CCCC)(CCCC)(OC(=CC)C)[O+:10]=CC.CC[NH+](CC)CC.CC[NH+](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-].[Cl-] 10=20,
C([C:20](=[OH+:21])NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O)([N+](=O)[O-])[N+](=O)[O-].[OH2:10].OS(=O)(=O)[O-]>>C([C:20](NC(=C([N+](=O)[O-])[N+](=O)[O-])NC(=O)O)([OH2+:10])[OH:21])([N+](=O)[O-])[N+](=O)[O-].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)Br)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC(=C1)Br)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][OH2+:21].CC#CC(C)(C#CC)[O-:10]>>[H:20][O:10]C(C)(C#CC)C#CC.[OH2:21] 10=20;20,21=21
